* C:\Users\newtonis\InformesTC\TP2\graficos\ejercicio4\spice\integrador.asc
V3 INPUT 0 SINE(0 1 1K) AC 0.0000001
XU1 0 Vd N001 N002 OUTPUT LM833#0
C1 OUTPUT Vd 56n V=16 Irms=4.39 Rser=0 Lser=0
R1666 Vd INPUT 1k8
V1 0 N002 15 Rser=100
V2 N001 0 15 Rser=100
R6 OUTPUT 0 10000000
.inc C:\Users\newtonis\InformesTC\TP2\graficos\ejercicio4\spice\LM833.lib
.ac dec 100 10 1000000
.backanno
.end
